US08357706B2
Prepared using General Procedure 1. To (R)-tert-butyl 2-(tert-butyldimethyl silyloxy)ethyl(4-cyano-2,3-dihydro-1H-inden-1-yl)carbamate INT-59 (0.800 g, 1.9 mmol) in EtOH (8 mL) was added hydroxylamine hydrochloride (0.400 g, 5.8 mmol) and Na2CO3 (0.610 g, 5.8) and the reaction mixture was heated at 85° C. for 12 h. Once cooled to room temperature, the reaction mixture was filtered using EtOH to rinse the filter cake. The filtrate was concentrated under reduced pressure and washed with EA and brine. The combined organic layers were dried over MgSO4, filtered, and concentrated to produce 0.860 g (100%) of (R)-tert-butyl 2-(tert-butyldimethylsilyloxy)ethyl(4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-yl)carbamate INT-61 as a light yellow oil. LCMS-ESI (m/z) calculated for C23H39N3O4Si: 449.7; found 350.2 [M+H−Boc]+, tR=1.97 min.

reactant | (R)-tert-butyl 2-(tert-butyldimethyl silyloxy)ethyl(4-cyano-2,3-dihydro-1H-inden-1-yl)carbamate | [Si](C)(C)(C(C)(C)C)OCCN(C(OC(C)(C)C)=O)[C@@H]1CCC2=C(C=CC=C12)C#N | C23H36N2O3Si
reactant | hydroxylamine hydrochloride | 5.8 mmol, 0.400 g | Cl.NO
reactant | Na2CO3 | 0.610 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 8 mL | CCO | C2H6O
product | (R)-tert-butyl 2-(tert-butyldimethylsilyloxy)ethyl(4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-yl)carbamate | 0.860 g, 100% | [Si](C)(C)(C(C)(C)C)OCCN(C(OC(C)(C)C)=O)[C@@H]1CCC2=C(C=CC=C12)C(NO)=N | C23H39N3O4Si
